US07795288B2
2-(3-Thiophen-3-yl-phenyl)-ethanol
A mixture of 3-bromo-phenethyl-alcohol (1 g, 4.97 mmol), 3-thiophene-boronic-acid (1.9 g, 14.9 mmol, 3.0 equiv), Pd(PPh3)4 (172 mg, 0.149 mmol, 0.03 equiv), and 2M Na2CO3 (10.8 mL, 22.4 mmol, 4.5 equiv) in toluene (40 mL) is heated to reflux 1 h, under an argon atmosphere. The resulting suspension is allowed to cool to RT and filtered through a pad of celite, washing the filter cake with CH2Cl2 and water. The layers are separated. The organic phase is washed with brine, dried (Na2SO4), filtered and concentrated. Purification of the crude material by silica gel column chromatography (CH2Cl2/Et2O, 95/5) affords the title compound: ES-MS: 205.0 [M+H]+; single peak at tR=4.27 min (System 2); Rf=0.32 (CH2Cl2/Et2O, 95/5).

reactant | 3-bromo-phenethyl-alcohol | 4.97 mmol, 1 g | BrC=1C=C(CCO)C=CC1 | C8H9BrO
reactant | 3-thiophene-boronic-acid | 14.9 mmol, 1.9 g, 3.0 equiv | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 22.4 mmol, 2M, 10.8 mL, 4.5 equiv | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.149 mmol, 172 mg, 0.03 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-Thiophen-3-yl-phenyl)-ethanol | S1C=C(C=C1)C=1C=C(C=CC1)CCO | C12H12OS
